US07772262B2
a) tert-butyl cyclopropylsulfamoylcarbamate
1.33 ml of t-BuOH were dissolved in 50 ml of anhydrous CH2Cl2 and, at RT, 2.00 g of chlorosulfonyl isocyanate were added dropwise. During this, the internal temperature rose to 30° C. Stirring at RT for 1 hour was followed by dropwise addition of 1.96 ml of cyclopropylamine and leaving the reaction mixture to stand at RT for 16 hours. It was then washed 3 times with 15 ml of water each time. After drying over Na2SO4, the solvent was removed in vacuo. 1.3 g of an amorphous solid were obtained.

reactant | t-BuOH | 1.33 ml | CC(C)(C)O | C4H10O
reactant | chlorosulfonyl isocyanate | 2.00 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | cyclopropylamine | 1.96 ml | C1(CC1)N | C3H7N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl cyclopropylsulfamoylcarbamate | 1.3 g | C1(CC1)NS(=O)(=O)NC(OC(C)(C)C)=O | C8H16N2O4S
